US05646283
8-Phenyl-1-benzocyclooctanone (compound y):
Using 2.0 g (7.90 mmol) of 8-bromo-1-benzocyclooctanone and 4.05 g (9.48 mmol) of tetraphenyltin, the same reaction as described in Reference Example 18 was carried out to obtain 1.12 g of the above-mentioned compound (yield 57%).

reactant | 8-bromo-1-benzocyclooctanone | 7.90 mmol, 2.0 g | BrC1CCCC2=C(CC1)C(CC=C2)=O | C12H15BrO
reactant | tetraphenyltin | 9.48 mmol, 4.05 g | C1(=CC=CC=C1)[Sn](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | 8-Phenyl-1-benzocyclooctanone | 1.12 g, yield 57% | C1(=CC=CC=C1)C1CCCC2=C(CC1)C(CC=C2)=O | C18H20O
